US08114902B2
(18-2) Synthesis of 2-amino-2-{2-[3-chloro-2′-fluoro-4′-(4-methylphenylthio)biphenyl-4-yl]ethyl}propane-1,3-diol
N-[1,1-Bis(acetoxymethyl)-3-[3-chloro-2′-fluoro-4′-(4-methylphenylthio)biphenyl-4-yl]propyl]acetamide (0.24 g) was dissolved in ethanol (4 mL), concentrated hydrochloric acid (2 mL) was added, and the mixture was stirred at 75° C. for 3 hr. The reaction mixture was concentrated, aqueous potassium carbonate solution was added to the residue, and the precipitated crystals were collected by filtration. The crude crystals were purified by preparative HPLC to give the title compound (106 mg) as white crystals.

reactant | N-[1,1-Bis(acetoxymethyl)-3-[3-chloro-2′-fluoro-4′-(4-methylphenylthio)biphenyl-4-yl]propyl]acetamide | 0.24 g | C(C)(=O)OCC(CCC1=C(C=C(C=C1)C1=C(C=C(C=C1)SC1=CC=C(C=C1)C)F)Cl)(COC(C)=O)NC(C)=O | C30H31ClFNO5S
reactant | hydrochloric acid | 2 mL | Cl | ClH
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 2-amino-2-{2-[3-chloro-2′-fluoro-4′-(4-methylphenylthio)biphenyl-4-yl]ethyl}propane-1,3-diol | 106 mg | NC(CO)(CO)CCC1=C(C=C(C=C1)C1=C(C=C(C=C1)SC1=CC=C(C=C1)C)F)Cl | C24H25ClFNO2S
